US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4-tridecadienoic acid methyl ester (11 g) was saponified in a refluxing mixture of methanol (40 mL) and 2N NaOH (40 mL). After 2.5 hours the reaction was worked up in the usual way and the crude acid was crystallized from hexane to give 3.27 g of (E,E)-5-(4-methoxyphenyl)-2,4-tridecadienoic acid, mp 109°-110° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-tridecadienoic acid methyl ester | 11 g | COC(\C=C\C=C(/CCCCCCCC)\C1=CC=C(C=C1)OC)=O | C21H30O3
reactant | NaOH | 2N, 40 mL | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-tridecadienoic acid | 3.27 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCCCCCC | C20H28O3
